US04624699
4-Chloro-2-fluoro-5-hydroxyphenylhydrazine (0.5 g), 2-acetylcyclohexanone (0.4 g) and a catalytic amount of acetic acid were admixed with xylene (15 ml), and the resultant mixture was heated under reflux for 5 hours while removing water. After cooling, the mixture was concentrated, and the residue was purified by silica gel column chromatography to obtain 0.7 g of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole.

reactant | 4-Chloro-2-fluoro-5-hydroxyphenylhydrazine | 0.5 g | ClC1=CC(=C(C=C1O)NN)F | C6H6ClFN2O
reactant | 2-acetylcyclohexanone | 0.4 g | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-methyl-4,5,6,7-tetrahydro-2H-indazole | 0.7 g | ClC1=CC(=C(C=C1O)N1N=C2CCCCC2=C1C)F | C14H14ClFN2O
